US07652049B2
A solution of benzyl {(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate (64 mg, 0.24 mmol) in CH2Cl2 (1 mL) was cooled to −20° C. under N2, and isopropylmagnesium chloride (120 μL of a 2.0 M solution in THF) was added dropwise. The mixture was stirred at −20° C. for 20 min. In a separate flask ethylmagnesium bromide (480 μL of a 2.0 M solution in Et2O) was added to a solution of 4-iodo-1-methyl-1-H-imidazole (109 mg, 0.48 mmol) in dry CH2Cl2 (1.5 mL) at room temperature. The resulting mixture was stirred for 20 min and then added by cannula to the solution above slowly. The resulting solution was left to stir overnight. Saturated NH4Cl was added to the reaction solution. The mixture was diluted with water and the aqueous phase was extracted with CH2Cl2 (2×25 mL). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. Flash chromatography of the residue yielded benzyl [(1S)-1-methyl-2-(1-methyl-1H-imidazol-4-yl)-2-oxoethyl]carbamate. LCMS calc.=288.14; found=288.3 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.65 (s, 1H); 7.47 (s, 1H); 7.35-7.28 (m, 5H); 5.93 (d, J=6.9 Hz, 1H); 5.29-5.25 (m, 1H); 5.13 (s, 2H); 3.73 (s, 3H); 1.26 (d, J=7.1 Hz, 3H).

reactant | benzyl {(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate | 0.24 mmol, 64 mg | CON(C([C@H](C)NC(OCC1=CC=CC=C1)=O)=O)C | C13H18N2O4
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 4-iodo-1-methyl-1-H-imidazole | 0.48 mmol, 109 mg | IC=1N=CN(C1)C | C4H5IN2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | benzyl [(1S)-1-methyl-2-(1-methyl-1H-imidazol-4-yl)-2-oxoethyl]carbamate | C[C@@H](C(=O)C=1N=CN(C1)C)NC(OCC1=CC=CC=C1)=O | C15H17N3O3
